US04672066
The reaction of 0.83 g of 2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]benzoic acid with 0.38 g (0.0026 mol) of 3-pyridine butanamine according to Example 40 gave 0.88 g, mp 77°-80°, (77% yield) of 2-[2-(4-Acetyl-3-hydroxy-2-propylphenoxy)ethoxy]-N-[4-(3-pyridinyl)butyl]benzamide, the title compound.

reactant | 2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]benzoic acid | 0.83 g | C(C)(=O)C1=C(C(=C(OCCOC2=C(C(=O)O)C=CC=C2)C=C1)CCC)O | C20H22O6
reactant | 3-pyridine butanamine | 0.0026 mol, 0.38 g | N1=CC(=CC=C1)CCCCN | C9H14N2
product | 2-[2-(4-Acetyl-3-hydroxy-2-propylphenoxy)ethoxy]-N-[4-(3-pyridinyl)butyl]benzamide | 77% yield | C(C)(=O)C1=C(C(=C(OCCOC2=C(C(=O)NCCCCC=3C=NC=CC3)C=CC=C2)C=C1)CCC)O | C29H34N2O5
